US06734312B2
ADC01 (2.9 g, 16.9 mmol) was slowly added to a solution of N-benzyl-3,4-dihydroxypyrrole-2,5-dicarboxylic acid diethyl ester (2.6 g, 7.7 mmol), ethylene glycol (0.5 g, 8.5 mmol), and PH02 (4.4 g, 16.9 mmol) in dry tetrahydrofuran (150 ml) at 0° C. The reaction mixture was allowed to warm to 25° C., stirred for 3 h, and then was refluxed for 21 h. The reaction mixture was then allowed to cool to 25° C. and was concentrated by rotary evaporator to remove the tetrahydrofuran. The residue was diluted with diethyl ether and allowed to stand overnight to enable the tributylphosphine oxide to precipitate out. The tributylphosphine oxide was then removed by filtration and the residue purified by chromatography on silica gel (eluant: ethyl acetate/hexane=3/1) to give 6-benzyl-2, 3-dihydro-6H-[1,4]dioxino[2,3-c]pyrrole-5,7-dicarboxylic acid diethyl ester as a colourless solid in 2.3 g (85%) yield as characterized by 1H NMR, 13C NMR, HRMS, and elemental analysis.

reactant | N-benzyl-3,4-dihydroxypyrrole-2,5-dicarboxylic acid diethyl ester | 7.7 mmol, 2.6 g | C(C)OC(=O)C=1N(C(=C(C1O)O)C(=O)OCC)CC1=CC=CC=C1 | C17H19NO6
reactant | ethylene glycol | 8.5 mmol, 0.5 g | C(CO)O | C2H6O2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 6-benzyl-2, 3-dihydro-6H-[1,4]dioxino[2,3-c]pyrrole-5,7-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C2C(=C(N1CC1=CC=CC=C1)C(=O)OCC)OCCO2 | C19H21NO6
